US07423181B2
3-[1,3]Dioxan-2-yl-2′-methyl-biphenyl-4-ol
A solution of 4-hydroxy-2′-methyl-biphenyl-3-carbaldehyde (18.8 mmol) in toluene (100 mL) was added 1,3-dihydroxypropane (65.7 mmol) and p-toluenesulfonic acid (cat) and heated at reflux overnight in a Dean-Stark set-up. The reaction was cooled and washed with a solution of Na2CO3 (aq, 1 M). Evaporation in vacuo gave the title product as brown oil in 89% yield. 1H-NMR (CDCl3) δ 9.61 (bs, 1H), 7.34-7.10 (m, 6H), 6.87 (d, 1H), 5.77 (s,1H), 4.13-4.07 (m, 2H), 3.95-3.86 (m, 2H), 2.20 (s, 3H), 2.18-1.96 (m, 1H), 1.40 (d, 1H).

reactant | 4-hydroxy-2′-methyl-biphenyl-3-carbaldehyde | 18.8 mmol | OC1=C(C=C(C=C1)C1=C(C=CC=C1)C)C=O | C14H12O2
reactant | 1,3-dihydroxypropane | 65.7 mmol | OCCCO | C3H8O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[1,3]Dioxan-2-yl-2′-methyl-biphenyl-4-ol | 89% yield | O1C(OCCC1)C=1C=C(C=CC1O)C1=C(C=CC=C1)C | C17H18O3
